US07749992B2
Step 1. Preparation of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid amide
A mixture of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride (0.1 mmol, 50.0 mg) and ammonia (1.0 mmol, 1.0 mL, 1M in MeOH) was refluxed at 70° C. for 6 h with vigorous stirring. The solvent was removed in vacuo and the crude product was purified by crystallization using EtOAc. The product was obtained as a white solid; Rf 0.1 (EtOAc); MS (ES+): 508 (M+H+).

reactant | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride | 0.1 mmol, 50.0 mg | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)Cl)C=C(C=C2)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C22H18Cl2F6N2O2
reactant | ammonia | 1.0 mmol, 1M, 1.0 mL | N | H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid amide | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)N)C=C(C=C2)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C22H20ClF6N3O2
